US06800627B1
(RS) 7-Chloro-8-methyl-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole
Sodium cyanoborohydride (95%, 0.24 g, 3.6 mmol) was added in 1 portion to a stirred solution of 7-chloro-8-methyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole (0.25 g, 1.1 mmol) in acetic acid (10 mL) at 10° C. under Ar. The reaction was then allowed to warm to room temperature and stirred for 4 h. The mixture was then poured into saturated aqueous sodium hydrogen carbonate solution (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with brine (1×50 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude oil. The oil was purified by flash column chromatography [SiO2; ethyl acetate-methanol-ammonium hydroxide (9:1:0)→(90:9:1)] to give an oil (022 g, 87%). The oil was dissolved in boiling 2-propanol (5 mL) and a solution of fumaric acid (0.05 g) in hot 2-propanol (5 mL) was added. The solvent was removed under vacuum and the residue triturated with ether to give the product as an off-white solid (40 mg, 10%). mp 180-182° C. IR νmax (Nujol)/cm−1 4331, 2924, 2854, 1702, 1618, 1459, 1377, 1274, 1176, 1103, 1008, 969, 868, 834, 786, 722, 676, 642 and 537; NMR δH (400 MHz; DMSO-d6) 7.02 (1H, s), 6.60 (1H, s), 6.54 (3H, s), 3.63-3.67 (1H, m), 3.47-3.57 (2H, m), 2.88-3.10 (5H, m), 2.72-2.79 (1H, m), 2.19 (3H, s).

reactant | Sodium cyanoborohydride | 3.6 mmol, 0.24 g | C(#N)[BH3-].[Na+]
reactant | 7-chloro-8-methyl-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 1.1 mmol, 0.25 g | ClC=1C(=CC=2C=C3N(C2C1)CCNC3)C | C12H13ClN2
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
reactant | fumaric acid | 0.05 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | (RS) 7-Chloro-8-methyl-1,2,3,4,10,10a-hexahydropyrazino[1,2-a]indole | 40 mg, 10% | ClC=1C(=CC=2CC3N(C2C1)CCNC3)C | C12H15ClN2
